US06828330B2
Step 1002a: Preparation of Ethyl 6-fluoro-1,3-benzothiazole-2-carboxylate
A solution of 5-fluoro-2-aminobenzenethiol (0.94 g, 6.6 mmol) in diethyl oxalate (1.8 mL, 13 mmol) is heated at reflux for overnight. The solution is poured into a mixture of water (9.8 mL), conc. HCl (3.3 mL), and EtOH (4.6 mL). The material is extracted with CHCl3 (3×100 mL). The combined organic extracts are dried over MgSO4, filtered and concentrated to yield an oil. The material is purified by chromatography (25% hexanes/75% CHCl3) to afford a solid that is recrystallized from petroleum ether (0.16 g, 11%). MS for C10H8NO2SF: m/z 226 (M+H)+.

reactant | 5-fluoro-2-aminobenzenethiol | 6.6 mmol, 0.94 g | FC=1C=CC(=C(C1)S)N | C6H6FNS
reactant | diethyl oxalate | 13 mmol, 1.8 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | water | 9.8 mL | O | H2O
reactant | HCl | 3.3 mL | Cl | ClH
solvent | EtOH | 4.6 mL | CCO | C2H6O
product | Ethyl 6-fluoro-1,3-benzothiazole-2-carboxylate | FC1=CC2=C(N=C(S2)C(=O)OCC)C=C1 | C10H8FNO2S
